* OPA2377
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA2377
* Date: 13JUN2011
* Model Type: ALL-IN-ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS504B –FEBRUARY 2010–REVISED JANUARY 2011
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
*
* BEGIN MODEL OPA2377
* THIS MODEL IS APPLICABLE TO OPA377 OPA2377 OPA4377
* MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT
* THROUGH THE SUPPLY RAILS, RAIL-TO-RAIL OUTPUT STAGE,
* OUTPUT CURRENT LIMIT, OPEN LOOP GAIN AND PHASE WITH
* RL AND CL EFFECTS, SETTLING TIME, OVERLOAD RECOVERY
* TIME, SEPERATE COMMON MODE REJECTION WITH FREQUENCY
* EFFECTS FOR EACH INPUT REGION, OUTPUT IMPEDANCE VS
* FREQUENCY, POWER SUPPLY REJECTION WITH FREQUENCY
* EFFECTS, INPUT VOLTAGE NOISE WITH 1/F, INPUT CURRENT
* NOISE, INPUT BIAS CURRENT WITH TEMPERATURE EFFECTS,
* INPUT IMPEDANCE, INPUT COMMON MODE RANGE, SEPERATE
* INPUT	OFFSET FOR EACH INPUT REGION, OFFSET TEMPERA-
* TURE EFFECTS, AND QUIESCENT CURRENT VS VOLTAGE AND
* TEMPERATURE.
* MODEL TEMP RANGE IS -40 TO +125 DEG C.
* NOTE THAT MODEL IS FUNCTIONAL OVER THIS RANGE BUT
* NOT ALL PARAMETERS TRACK THOSE OF THE REAL PART.
*
* NOTE - SETTLING TIME IS FAIRLY ACCURATE FOR GAINS
* FROM 1 TO ABOUT 20 BUT RUNS LONG AT A GAIN OF 100.
*
* NOTE - FOR ACCURATE BIAS CURRENTS AT ROOM AND COLD
* SET THE SPICE ANALYSIS OPTIONS AS FOLLOWS :
* RELTOL 0.0001 TO 0.00001 AND GMIN 1E-13 TO 1E-14.
* SET BOTH OF THESE OPTIONS AS SMALL AS WILL ALLOW
* CONVERGANCE ON YOUR SIMULATOR.
*
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   5  2  1
.SUBCKT OPA2377 3 4 5 2 1
Q20 6 7 8 QNL
R3 9 10 2
R4 11 10 2
R10 7 12 100
R11 13 14 100
R12 14 5 21
R13 2 12 12.5
R17 15 16 21
R18 8 17 12.5
D5 1 5 DD
D6 2 1 DD
D7 18 0 DIN
D8 19 0 DIN
I8 0 18 0.1E-3
I9 0 19 0.1E-3
E2 8 0 2 0 1
E3 16 0 5 0 1
D9 20 0 DVN
D10 21 0 DVN
I10 0 20 0.2E-6
I11 0 21 0.2E-6
E4 22 4 20 21 0.065
G2 23 4 18 19 1E-6
E5 24 0 16 0 1
E6 25 0 8 0 1
E7 26 0 27 0 1
R30 24 28 1E6
R31 25 29 1E6
R32 26 30 1E6
R33 0 28 100
R34 0 29 100
R35 0 30 100
E10 23 31 30 0 0.15
R36 32 27 1E3
R37 27 33 1E3
C6 24 28 0.2P
C7 25 29 0.2E-12
C8 26 30 2E-12
E11 34 35 29 0 -0.055
E12 23 34 28 0 0.055
E14 36 8 16 8 0.5
D11 37 16 DD
D12 8 38 DD
M1 39 40 12 12 NOUT L=3U W=700U
M2 41 42 14 14 POUT L=3U W=400U
M3 43 43 15 15 POUT L=3U W=400U
M4 44 45 9 9 HVP L=3U W=600U
M5 46 47 11 11 HVP L=3U W=600U
M8 48 48 17 17 NOUT L=3U W=700U
R43 49 50 300
R44 51 52 300
G3 53 36 54 36 3.333E-4
R45 36 53 6E5
R46 8 44 2100
R47 8 46 2100
C13 44 46 1E-15
C14 23 0 6.5E-12
C15 22 0 6.5E-12
C16 1 0 30E-12
D13 52 6 DC
D14 55 50 DC
Q15 55 13 16 QPL
V18 31 56 280E-6
M19 57 58 59 59 PIN L=6U W=500U
I14 43 48 160E-6
E17 33 0 23 0 1
E18 32 0 4 0 1
M23 58 58 59 59 PIN L=6U W=500U
V21 57 10 0
R59 1 41 5
R60 39 1 5
J1 60 23 60 JC
J2 60 22 60 JC
J3 22 61 22 JC
J4 23 61 23 JC
C21 23 22 0.1E-12
E20 62 36 46 44 1
R62 62 54 1E4
C23 54 36 0.5E-12
G7 63 36 64 36 -1E-3
G8 36 65 64 36 1E-3
G9 36 66 48 8 1E-3
G10 67 36 16 43 1E-3
D17 67 63 DD
D18 65 66 DD
R66 63 67 1E11
R67 66 65 1E11
R68 67 16 1E3
R69 8 66 1E3
E23 16 49 16 67 1
E24 51 8 66 8 1
R70 65 36 1E11
R71 66 36 1E11
R72 36 67 1E11
R73 36 63 1E11
C27 42 41 7E-14
C28 39 40 7E-14
R74 2 5 1E6
G12 5 2 68 0 -3.3E-4
I20 0 69 1E-3
D20 69 0 DD
V24 69 68 0.71
R75 0 68 1E6
I21 5 2 660E-6
E25 70 0 1 0 1
G13 64 36 53 36 -3.2E-5
R77 36 64 4E7
C29 53 71 48E-12
C30 64 72 6E-12
R78 72 70 1
R79 71 70 5
R80 53 70 1E10
R81 64 70 2E11
D21 73 16 DD
D22 8 74 DD
V52 75 0 1
I63 0 76 1E-3
D23 76 0 DD
R307 0 76 10E6
V81 76 77 1.798
R308 0 77 20E6
E52 78 0 77 0 -0.875
R309 0 78 10E6
R310 79 78 10E6
M52 79 80 0 0 NEN L=2U W=1000U
V141 81 0 1
R311 81 80 1E6
M53 80 75 0 0 NEN L=2U W=100U
R312 0 77 20E6
G14 58 8 79 0 0.136E-3
D24 82 83 DL
V142 83 0 3
R313 0 82 1E8
G51 4 0 82 0 3.3E-11
I64 4 0 1.58E-13
G52 23 0 82 0 3.3E-11
I65 23 0 1.58E-13
R314 50 42 1
R315 52 40 1
C32 53 70 1E-15
G53 64 36 54 36 4.167E-5
R316 84 85 2
R317 84 86 2
R318 87 16 2100
R319 88 16 2100
E53 89 0 27 0 1
R320 89 90 1E6
R321 0 90 100
E54 91 92 90 0 1.5
C33 89 90 2E-12
V143 92 23 2E-3
G54 53 36 93 36 3.333E-4
R322 36 53 1E12
E55 94 36 88 87 1
R323 94 93 1E4
C34 93 36 0.5E-12
M54 87 95 85 85 HVN L=3U W=600U
M55 88 96 86 86 HVN L=3U W=600U
M56 97 97 8 8 NIN L=6U W=500U
M57 84 97 8 8 NIN L=6U W=500U
M58 97 98 99 99 PIN L=6U W=500U
R324 99 57 250
V144 16 98 0.97
G55 64 36 93 36 4.167E-5
V145 16 59 -1
V146 61 8 0.3
V147 16 60 0.3
R329 56 45 440
R330 96 22 440
R331 91 95 440
R332 47 22 440
E56 73 64 16 36 0.3
E57 64 74 36 8 0.3
E58 53 38 36 8 0.95
E59 37 53 16 36 0.95
C35 87 88 1E-15
C36 16 37 1E-15
C37 8 38 1E-15
C38 8 74 1E-15
C39 16 73 1E-15
R335 35 34 1E9
R336 34 23 1E9
R337 92 91 1E9
R338 31 23 1E9
E61 35 3 68 0 1.8E-4
R339 3 35 1E9
.MODEL DD D
.MODEL DC D IS=1E-13
.MODEL DVN D KF=1.05E-16 IS=1E-16
.MODEL DIN D
.MODEL DL D IS=0.95E-11 N=1.47 XTI=1.5
.MODEL JC NJF IS=1E-18
.MODEL QNL NPN IS=1E-13 XTI=18
.MODEL QPL PNP IS=1E-13 XTI=18
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL HVP PMOS KP=200U VTO=-0.7
.MODEL HVN NMOS KP=200U VTO=0.7
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL NOUT NMOS (LEVEL=3 PHI=0.7 TOX=2E-8 XJ=5E-7
+ TPG=1 VTO=0.7 DELTA=0.5 LD=1E-7 KP=2E-4 UO=650
+ THETA=0.1 GAMMA=0.5 NSUB=1E17 NFS=6E11 FC=0.5
+ VMAX=1E5 ETA=3E-6 KAPPA=10 PB=1 IS=1E-18)
.MODEL POUT PMOS (LEVEL=3 PHI=0.7 TOX=2E-8 XJ=5E-7
+ TPG=-1 VTO=-0.7 DELTA=0.5 LD=1E-7 KP=2E-4 UO=650
+ THETA=0.1 GAMMA=0.5 NSUB=1E17 NFS=6E11 FC=0.5
+ VMAX=1E5 ETA=3E-6 KAPPA=10 PB=1 IS=1E-18)
.ENDS
* END MODEL OPA2377
